US09233979B2
(R)-1-(3-(4-methoxybenzyl)-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea (22 mg, 0.032 mmol) was taken in TFA (0.1 mL) and stirred at room temperature for 30 minutes. To the reaction was added triethylsilane (21 uL, 0.128 mmol) stirred for 15 minutes at room temperature then heated to 80° C. for 30 minutes. The reaction mixture was concentrated, taken in DCM and washed with aqueous sodium bicarbonate, brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-15% MeOH-DCM) gave (R)-1-(1-phenylethyl)-3-(1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)urea. MS ESI calc'd. for C17H18N6O [M+H]+ 323. found 323. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 8.98 (s, 1H), 8.45 (br, s, 1H), 7.38 (m, 4H), 7.20 (m, 1H), 7.00 (s, 1H), 6.23 (s, 1H), 4.83 (m, 1H), 3.42 (dd, J=8.0, 5.0 Hz, 2H), 2.80 (dd, J=8.0, 5.0 Hz, 2H), 1.40 (d, J=11 Hz, 3H).

reactant | (R)-1-(3-(4-methoxybenzyl)-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea | 0.032 mmol, 22 mg | COC1=CC=C(CN2C=3C=4C(=CC(=NC4CC2)NC(=O)N[C@H](C)C2=CC=CC=C2)N(N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=C1 | C44H40N6O2
reactant | triethylsilane | 0.128 mmol, 21 uL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-1-(1-phenylethyl)-3-(1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)urea | C1(=CC=CC=C1)[C@@H](C)NC(=O)NC1=NC=2CCNC=3C2C(=C1)NN3 | C17H18N6O
